US04229519
EXAMPLE 30--Synthesis of n-Butyltribromoacetate
n-Butanol (7.4 g) and tribromoacetic acid (29.6 g) were dissolved in toluene (100 ml). p-Toluenesulfonic acid (0.7 g) was added, and the solution was heated under reflux in a Dean and Stark apparatus. After 90 minutes water (2 ml) had been collected. The solvent was spun off on a rotary evaporator and the residue was distilled under water pump vacuum, collecting the fraction boiling between 120°-130° C. The fraction was redistilled yielding a colorless oil b.p. 128° C./15-18 mm (31 g).

reactant | n-Butanol | 7.4 g | C(CCC)O | C4H10O
reactant | tribromoacetic acid | 29.6 g | BrC(C(=O)O)(Br)Br | C2HBr3O2
reactant | p-Toluenesulfonic acid | 0.7 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | n-Butyltribromoacetate | C(CCC)OC(C(Br)(Br)Br)=O | C6H9Br3O2
